US08003785B2
To a solution of 11.6 g (0.032 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2,2-difluoro-propionic acid ethyl ester in 100 mL of acetic acid was added 15.5 g (0.191 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hours and then filtered while hot. Water and ethyl acetate were added to the filtrate and mixture was stirred for 10 minutes and then filtered. The organic layer was washed with ammonium hydroxide and water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The solid residue was washed with 50 mL of hexanes-ethyl acetate (90:10) and then air dried to give 6.8 g of 2-chloro-9-cyclobutyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-1).

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2,2-difluoro-propionic acid ethyl ester | 0.032 mole, 11.6 g | C(C)OC(C(CN(C1CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C13H15ClF2N4O4
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 15.5 g | [Fe] | Fe
product | 2-chloro-9-cyclobutyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 6.8 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCC2)N1 | C11H11ClF2N4O
